US08236985B2
tert-Butyl (E,E)-4-methyl-5-(4-nitrophenyl)penta-2,4-dienoate (3c)
(E)-2-Methyl-3-(4-nitrophenyl)prop-2-enal (3.0 g, 15.6 mmol), (tert-butoxycarbonyl methylene)triphenylphosphorane (8.85 g, 23.4 mmol) and dry acetonitrile (60 ml) were stirred and heated at 65° C. until reaction was complete (ca. 1 h, HPLC monitoring). The mixture was cooled, filtered to remove some insoluble by-product, and the filtrate concentrated in vacuo to ca. 15 ml volume. On cooling the product deposited, was collected by filtration and washed with cold acetonitrile to give a yellow solid (2.4 g), mp 120-122° C. The mother liquors were evaporated to dryness, the residue stirred in ether (20 ml) and the insoluble material removed by filtration. The filtrate was concentrated in vacuo and the residue crystallised from acetonitrile (5 ml) to give a second crop of product (1.3 g). Total yield=3.7 g (87%)

reactant | (E)-2-Methyl-3-(4-nitrophenyl)prop-2-enal | 15.6 mmol, 3.0 g | C/C(/C=O)=C\C1=CC=C(C=C1)[N+](=O)[O-] | C10H9NO3
reactant | (tert-butoxycarbonyl methylene)triphenylphosphorane | 23.4 mmol, 8.85 g | C(C)(C)(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | tert-Butyl (E,E)-4-methyl-5-(4-nitrophenyl)penta-2,4-dienoate | 2.4 g | C/C(/C=C/C(=O)OC(C)(C)C)=C\C1=CC=C(C=C1)[N+](=O)[O-] | C16H19NO4
